US08859591B2
Step C: methyl 3-(6-(cyclohexyl(2-methyl-4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenyl)methylamino)nicotinamido)propanoate, Isomers 1 and 2
The title compound was prepared by a method analogous to that described in Steps B-C of Example 82, using (+/−)-methyl 6-(cyclohexyl(2-methyl-4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenyl)methylamino)nicotinate in Step B and methyl 3-aminopropanoate hydrochloride in Step C. Racemic methyl 3-(6-(cyclohexyl(2-methyl-4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenyl)methylamino)nicotinamido)propanoate was purified by chiral SFC to afford Isomer 1 and Isomer 2, which were used in conversion to the final enantiopure products. Chiral SFC: Chiralpak AD-H, 4.6×250 mm, 5 μm. Modifier 0.05% DEA. Mobile Phase: 60/40 CO/ethanol. Flow: 2.35 mL/min. Retention time: 5.19 minutes (Isomer 1) and 7.83 minutes (Isomer 2).

reactant | (+/−)-methyl 6-(cyclohexyl(2-methyl-4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenyl)methylamino)nicotinate | C1(CCCCC1)N(C1=NC=C(C(=O)OC)C=C1)CC1=C(C=C(C=C1)N1N=CC(=C1)C(F)(F)F)C | C25H27F3N4O2
reactant | methyl 3-aminopropanoate hydrochloride | Cl.NCCC(=O)OC
product | methyl 3-(6-(cyclohexyl(2-methyl-4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenyl)methylamino)nicotinamido)propanoate | C1(CCCCC1)N(C1=NC=C(C(=O)NCCC(=O)OC)C=C1)CC1=C(C=C(C=C1)N1N=CC(=C1)C(F)(F)F)C | C28H32F3N5O3
